US07816371B2
d. (R)-2-(6-Chloro-5-(2-(4-fluoro-3-(trifluoromethyl)phenyl)acetamido)-1-oxoisoquinolin-2(1H)-yl)propyl acetate
A reaction vial was charged with (R)-2-(5-amino-6-chloro-1-oxoisoquinolin-2(1H)-yl)propyl acetate (210 mg, 0.00071 mol), 2-(4-fluoro-3-(trifluoromethyl)phenyl)acetic acid (300 mg, 0.001 mol), N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate (600 mg, 0.002 mol), N,N-diisopropylethylamine (600 μL, 0.003 mol) and the reaction was stirred at 50° C. for 5 days. At this point, the reaction was only 50% complete. The solvent was removed and the residue purified by flash chromatography to obtain the product as a light yellow oil. MS m/z=499.3 (M+H).

reactant | (R)-2-(5-amino-6-chloro-1-oxoisoquinolin-2(1H)-yl)propyl acetate | 0.00071 mol, 210 mg | C(C)(=O)OC[C@@H](C)N1C(C2=CC=C(C(=C2C=C1)N)Cl)=O | C14H15ClN2O3
reactant | 2-(4-fluoro-3-(trifluoromethyl)phenyl)acetic acid | 0.001 mol, 300 mg | FC1=C(C=C(C=C1)CC(=O)O)C(F)(F)F | C9H6F4O2
reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 0.002 mol, 600 mg | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
reactant | N,N-diisopropylethylamine | 0.003 mol, 600 μL | C(C)(C)N(C(C)C)CC | C8H19N
product | (R)-2-(6-Chloro-5-(2-(4-fluoro-3-(trifluoromethyl)phenyl)acetamido)-1-oxoisoquinolin-2(1H)-yl)propyl acetate | C(C)(=O)OC[C@@H](C)N1C(C2=CC=C(C(=C2C=C1)NC(CC1=CC(=C(C=C1)F)C(F)(F)F)=O)Cl)=O | C23H19ClF4N2O4
